US08193164B2
Step JB1: (R)-3-tert-Butoxycarbonylamino-pyrrolidine-1-carboxylic acid phenyl ester
Phenyl chloroformate (1 eq.) is added dropwise to a solution of pyridine in DCM. The reaction mixture is cooled to 0° C. and a solution of (R)-pyrrolidin-3-yl-carbamic acid tert-butyl ester (1 eq.) in DCM is added dropwise. The reaction mixture is stirred at RT for 1 hour. The reaction mixture is partitioned between (0.2 M) HCl)(aq) and DCM. The organics are washed with water, (sat)NaHCO3(aq) and brine. The organics are dried (MgSO4), filtered and reduced in vacuo to yield the title compound.

reactant | Phenyl chloroformate | 1 eq. | ClC(=O)OC1=CC=CC=C1 | C7H5ClO2
reactant | pyridine | N1=CC=CC=C1 | C5H5N
reactant | (R)-pyrrolidin-3-yl-carbamic acid tert-butyl ester | 1 eq. | C(C)(C)(C)OC(N[C@H]1CNCC1)=O | C9H18N2O2
solvent | DCM | C(Cl)Cl | CH2Cl2
product | (R)-3-tert-Butoxycarbonylamino-pyrrolidine-1-carboxylic acid phenyl ester | C1(=CC=CC=C1)OC(=O)N1C[C@@H](CC1)NC(=O)OC(C)(C)C | C16H22N2O4
